US08486902B2
Step 5. (R)-3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile
To a solution of 3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanamide (0.006 g, 0.02 mmol) in methylene chloride (0.5 mL) containing triethylamine (20 TL, 0.2 mmol) was added trichloroacetyl chloride (20 TL, 0.2 mmol). When the reaction was complete, preparative HPLC-MS (MeCN/H2O containing 0.15% NH4OH) was used to afford purified product (3 mg, 52%). 1H NMR (400 MHz, d6-DMSO): δ 11.39 (br s, 1H), 9.37 (s, 1H), 8.77 (s, 1H), 8.63 (s, 1H), 4.68-4.59 (m, 1H), 3.94 (s, 2H), 3.19-3.15 (m, 2H), 2.42-2.30 (m, 1H), 1.86-1.75 (m, 1H), 1.69-1.20 (m, 6H), 1.18-1.05 (m, 1H); LCMS (M+H)+: 339.1.

reactant | 3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanamide | 0.02 mmol, 0.006 g | C1(CCCC1)C(CC(=O)N)N1N=CC(=C1)C=1C2=C(N=C(N1)O)NCC2=O | C17H20N6O3
reactant | triethylamine | 0.2 mmol | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 0.2 mmol | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | MeCN H2O | CC#N.O
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | C1(CCCC1)[C@@H](CC#N)N1N=CC(=C1)C=1C2=C(N=C(N1)O)NCC2=O | C17H18N6O2
